US08192918B2
17.22 g (144.6 mmol, 15.7 ml) phenylisocyanate was added to a suspenssion of 7.00 g (46.0 mmol) 2-aminonicotinic acid methyl ester in dry pyridine. The mixture was refluxed for 16 hours. The pyridine is was removed under reduced pressure and the residue was treated with 280 ml ethanol. The mixture is refluxed for 10 minutes. Upon cooling down 3-phenyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione crystallized from the medium and was recrystallized from methoxypropanol. 6.73 g (61%) 3-phenyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione was isolated (m.p. 304° C.).

reactant | phenylisocyanate | 144.6 mmol, 15.7 ml, 17.22 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-aminonicotinic acid methyl ester | 46.0 mmol, 7.00 g | COC(C1=C(N=CC=C1)N)=O | C7H8N2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-phenyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 6.73 g, 61% | C1(=CC=CC=C1)N1C(NC2=C(C1=O)C=CC=N2)=O | C13H9N3O2
